US04874861
To 10 ml of dry N,N-dimethylformamide was added 0.75 g of 55% sodium hydride. The resulting mixture was kept at 0° C. and added dropwise with a solution of 3.2 g of p-phenylbenzyl mercaptan dissolved in 15 ml of N,N-dimethylformamide. After ten minutes passed, the resulting mixture was added dropwise with a solution of 3.2 g of 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone dissolved in 15 ml of N,N-dimethylformamide. After completion of dropwise addition, the resulting mixture was reacted at 80° C. for one hour. The resulting solution was poured into 50 ml of water and extracted twice with 50 ml of diethyl ether. The resulting organic layer was dried over anhydrous sodium sulfate, and freed of solvent by distillation under reduced pressure to give 4.8 g of crude product. The crude product was recrystallized from 5 ml of hexane to obtain 2.6 g of 2-t-butyl-4-methyl-5-(p-phenyl-benzylthio)-3(2H)-pyridazinone.

reactant | sodium hydride | 0.75 g | [H-].[Na+]
reactant | p-phenylbenzyl mercaptan | 3.2 g | C1(=CC=CC=C1)C1=CC=C(CS)C=C1 | C13H12S
reactant | 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone | 3.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-methyl-5-(p-phenyl-benzylthio)-3(2H)-pyridazinone | 2.6 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)SCC1=CC=C(C=C1)C1=CC=CC=C1 | C22H24N2OS
